US06506747B1
Synthesis of {4-[3,5-bis(Trifluoromethyl)pyrazol-1-yl]phenyl}ethylamine (Method H)
A mixture of 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole (0.15 g, 0.58 mmol), ethyl iodide (0.10 mL, 1.26 mmol), and Hunig's base (0.20 mL, 1.14 mmol) in N,N-dimethylformamide (10 mL) was heated to 50° C. under argon with stirring. After 24 hours the mixture was diluted with water, and extracted with ethyl acetate. The organic phase was washed with water (4×25 mL), brine, dried (magnesium sulfate) and concentrated. The residue was purified by flash chromatography (ethyl acetate/hexanes) followed by recrystallization from ethanol/water to give the above-named compound (0.045 g) as yellow crystals. mp 54° C. NMR (CDCl3, 400 MHz): δ 7.26 (d, 2H), 7.02 (s, 1H), 6.64 (d, 2H), 3.93 (br s, 1H), 3.22 (q, 2H), 1.31 (t, 3H).

reactant | 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole | 0.58 mmol, 0.15 g | NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3
reactant | ethyl iodide | 1.26 mmol, 0.10 mL | C(C)I | C2H5I
reactant | Hunig's base | 1.14 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | {4-[3,5-bis(Trifluoromethyl)pyrazol-1-yl]phenyl}ethylamine | 0.045 g | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)CCN)(F)F | C13H11F6N3
